US04044138
3-Methyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxyamide
3-Methyl-8-cyano-5,6,7,8-tetrahydroquinoline (1.7 g., 0.01 m.) and thioacetamide (1.5 g., 0.02 m.) were dissolved in dimethylformamide (50 ml.), and the solution saturated with dry hydrogen chloride gas and then heated on a steam bath for 4 hours. The cooled reaction mixture was poured onto water (200 ml.), washed with ethyl acetate (2 × ml) and the extracts discarded. The aqueous solution was adjusted to pH 10.0 with 46% sodium hydroxide and extracted into methylene chloride (2 × 200 ml.). The combined extracts were dried (sodium sulphate), evaporated i vacuo and the residual oil triturated with isopropanol and filtered. Recrystallization from benzene gave the title compound as pale yellow needles (1.3 g., 63%) m.p. 149°.

reactant | 3-Methyl-8-cyano-5,6,7,8-tetrahydroquinoline | 1.7 g | CC=1C=NC=2C(CCCC2C1)C#N | C11H12N2
reactant | thioacetamide | 1.5 g | C(C)(=S)N | C2H5NS
reactant | hydrogen chloride | Cl | ClH
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-Methyl-5,6,7,8-tetrahydroquinoline-8-thiocarboxyamide | 1.3 g, 63% | CC=1C=NC=2C(CCCC2C1)CC(N)=S | C12H16N2S
